US07700808B2
1-(4-Bromo-3-methylphenyl)-3-(3,5-dichlorophenyl)-4,4,4-trifluoro-2-butene-1-one (Compound No. 2-15 of the Present Invention)
To a solution of 0.3 g of 1-(4-bromo-3-methylphenyl)-3-(3,5-dichlorophenyl)-3-hydroxy-4,4,4-trifluorobutane-1-one synthesized under Synthetic Example 1 in 3 g toluene, 0.391 g of thionyl chloride and 0.104 g of pyridine were added at room temperature and the mixture was stirred for 1 hour at 80° C. After the end of reaction, the reaction solution was cooled to room temperature, added with toluene and 2N hydrochloric acid and separated, and then an organic layer was washed with water and dried with anhydrous magnesium sulfate to distill off the solvent under reduced pressure. The resulting residue, which although contains mixed geometrical isomers, was purified using silica gel column chromatography that was eluted with ethyl acetate-hexane (1:10), and 0.244 g of aimed product was obtained as yellow solid.

reactant | 1-(4-bromo-3-methylphenyl)-3-(3,5-dichlorophenyl)-3-hydroxy-4,4,4-trifluorobutane-1-one | 0.3 g | BrC1=C(C=C(C=C1)C(CC(C(F)(F)F)(O)C1=CC(=CC(=C1)Cl)Cl)=O)C | C17H12BrCl2F3O2
reactant | thionyl chloride | 0.391 g | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 0.104 g | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | toluene | 3 g | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Bromo-3-methylphenyl)-3-(3,5-dichlorophenyl)-4,4,4-trifluoro-2-butene-1-one | 0.244 g | BrC1=C(C=C(C=C1)C(C=C(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)=O)C | C17H10BrCl2F3O
